US06342765B1
A suspension of 10% palladium on carbon (2.5 g) and methyl 3-[2-(4-fluorophenyl)ethenyl]pyridin-2-carboxylate (12.4 g) in ethyl acetate (200 ml) was stirred vigorously under an hydrogen atmosphere at ambient temperature for four hours. The suspension was filtered through Celite and the filtrate concentrated under reduced pressure to give methyl 3-(4-fluoropbenethyl)pyridin-2-carboxylate as a mobile, pale yellow oil (11.72 g).

reactant | methyl 3-[2-(4-fluorophenyl)ethenyl]pyridin-2-carboxylate | 12.4 g | FC1=CC=C(C=C1)C=CC=1C(=NC=CC1)C(=O)OC | C15H12FNO2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(4-fluoropbenethyl)pyridin-2-carboxylate | FC1=CC=C(CCC=2C(=NC=CC2)C(=O)OC)C=C1 | C15H14FNO2
